US03960911
6-Phenyl-6oxohexanoylferrocene (5.61g; 15 mmole) in sodium dried dioxane (150 ml) was heated under reflux with sodium hydride (0.72g; 30 m mole) for 3 hr. The mixture was cooled and treated carefully with water (200 ml) when a brown solid precipitated, which was filtered off to yield 4.3g (76%) of nearly pure 1-ferrocenoyl-2-phenylcyclopentene. An analytical sample (3.7g; 69%) was obtained by one recrystallization from cyclohexane. mp 163°-4°.

reactant | 6-Phenyl-6oxohexanoylferrocene | 15 mmole, 5.61g | C1(=CC=CC=C1)C(CCCCC(=O)[C-]1C=CC=C1)=O.[CH-]1C=CC=C1.[Fe+2]
reactant | sodium hydride | 0.72g | [H-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | sodium | 150 ml | [Na] | Na
product | 1-ferrocenoyl-2-phenylcyclopentene | [C-]1(C=CC=C1)C(=O)C1=C(CCC1)C1=CC=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H15O.C5H5.Fe/c18-17(14-9-4-5-10-14)16-12-6-11-15(16)13-7-2-1-3-8-13;1-2-4-5-3-1;/h1-5,7-10H,6,11-12H2;1-5H;/q2*-1;+2
